* c:\users\91902\esim-workspace\lvds_drvr\lvds_drvr.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m15 net-_m1-pad1_ net-_m10-pad1_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m11 net-_m11-pad1_ net-_m11-pad2_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m6 net-_m10-pad1_ net-_m10-pad1_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m5 net-_m11-pad2_ net-_m11-pad2_ net-_m11-pad3_ net-_m11-pad3_ CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ vob vob CMOSN W=100u L=100u M=1
m2 net-_m1-pad1_ net-_m2-pad2_ voa voa CMOSN W=100u L=100u M=1
m3 vob net-_m2-pad2_ net-_m16-pad1_ net-_m16-pad1_ CMOSN W=100u L=100u M=1
m4 voa net-_m1-pad2_ net-_m16-pad1_ net-_m16-pad1_ CMOSN W=100u L=100u M=1
m16 net-_m16-pad1_ net-_m11-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m12 net-_m11-pad1_ net-_m11-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m7 net-_m11-pad2_ voa net-_m13-pad1_ net-_m13-pad1_ CMOSN W=100u L=100u M=1
m8 net-_m10-pad1_ vocm net-_m13-pad1_ net-_m13-pad1_ CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ vocm net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m9 net-_m11-pad2_ vob net-_m10-pad3_ net-_m10-pad3_ CMOSN W=100u L=100u M=1
m13 net-_m13-pad1_ net-_m13-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m14 net-_m10-pad3_ net-_m13-pad2_ gnd gnd CMOSN W=100u L=100u M=1
vdd1 net-_m11-pad3_ gnd  dc 5
vbias1 net-_m13-pad2_ gnd  dc 0.6
v1  net-_m1-pad2_ gnd pulse(5 0.6 1n 1n 1n 50n 100n)
v2  net-_m2-pad2_ gnd pulse(0.7 3 1n 1n 1n 50n 100n)
* u1  net-_m1-pad2_ plot_v1
* u2  net-_m2-pad2_ plot_v1
* u3  vob plot_v1
* u4  voa plot_v1
.tran 0.1e-09 1200e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_m1-pad2_)
plot v(net-_m2-pad2_)
plot v(vob)
plot v(voa)
.endc
.end
